US09062028B2
Step A. (5-Bromopyridin-2-yl)methanol
To a solution of NaBH4 (0.822 g, 21.73 mmol) in MeOH (25 mL) was added ethyl 5-bromopicolinate (1.0 g, 4.35 mmol) portion-wise over a period of 10 min at room temperature. The mixture was stirred at room temperature for 10 min and then heated to 70° C. for 30 min. The solvent was removed in vacuo, and the resulting residue was diluted with EtOAc and water. The aqueous phase was adjusted to pH 7 with 1 N aq. HCl, and extracted with EtOAc. The combined organic layer was dried over MgSO4, filtered, and concentrated in vacuo to afford the title compound (0.65 g, 80% yield) as a white solid. LCMS, [M+H]+=187.9.

reactant | NaBH4 | 21.73 mmol, 0.822 g | [BH4-].[Na+]
reactant | ethyl 5-bromopicolinate | 4.35 mmol, 1.0 g | BrC=1C=CC(=NC1)C(=O)OCC | C8H8BrNO2
solvent | MeOH | 25 mL | CO | CH4O
product | (5-Bromopyridin-2-yl)methanol | 0.65 g, 80% yield | BrC=1C=CC(=NC1)CO | C6H6BrNO
